US03979396
To a solution of 8.2 g (.022 mole) of 3-acetamido-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid piperidide in 80 ml of methanol was added 40 ml of 1 N sodium hydroxide. The reaction was stirred at room temperature (22°C.) for 3 hrs. and was immediately worked up by first removing methanol under vacuum. The aqueous, basic residue was partitioned between 50 ml of water and 100 ml of methylene chloride. The basic, aqueous phase was extracted three times with 30 ml portions of methylene chloride. The methylene chloride was dried over sodium sulfate, filtered, and evaporated to afford 2.45 g (0.0075 mole, 34%) of 3-amino-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid piperidide.

reactant | 3-acetamido-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid piperidide | .022 mole, 8.2 g | C(C)(=O)NC=1C(SCC1C(=O)OC)CCCCC(=O)N1CCCCC1 | C18H28N2O4S
reactant | sodium hydroxide | 1 N, 40 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3-amino-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid piperidide | 0.0075 mole, 2.45 g, 34% | NC=1C(SCC1C(=O)OC)CCCCC(=O)N1CCCCC1 | C16H26N2O3S
